US04006159
Preparation of 1(and 2 and 4)-Benzoyl-s-triazole-3-carboxamide
To a cooled, stirred mixture of 3 g. of 1,2,4-triazole-3-carboxamide and 4 g. of benzoyl chloride in 125 ml. of anhydrous diethyl ether is added rapidly 2.75 g. of triethylamine. The cooling bath is removed and the mixture is stirred at room temperature for 18 hours. The heterogeneous mixture is filtered and washed successively with diethyl ether, cold water and then diethyl ether and dried in vacuo for 4 hours yielding 4 g. of colorless solid. This solid is extracted with hot, dry acetonitrile and cooled yielding a solid product which is collected, washed with acetonitrile and dried in vacuo, yielding 1 g. of product, m.p. 174°-178° C. (dec.).

reactant | 1,2,4-triazole-3-carboxamide | N1N=C(N=C1)C(=O)N | C3H4N4O
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Benzoyl-s-triazole-3-carboxamide | C(C1=CC=CC=C1)(=O)C1=NC(=NN1)C(=O)N | C10H8N4O2
